US07723529B2
A mixture of 4-chlorobutyl pentafluorophenyl carbonate (1.69 g, 5.3 mmol) and NaI (7.99 g, 53.3 mmol) in CH3CN (20 ml) was refluxed under nitrogen for 960 minutes. Then the solvent was evaporated and the residue taken up with CH2Cl2 and washed with water (2×50 ml). The organic phase was then dried and evaporated yielding 4-iodobutyl pentafluorophenyl carbonate (1.95 g, 90%) as a yellow oil that was used without further purification.

reactant | 4-chlorobutyl pentafluorophenyl carbonate | 5.3 mmol, 1.69 g | C(OCCCCCl)(OC1=C(C(=C(C(=C1F)F)F)F)F)=O | C11H8ClF5O3
reactant | NaI | 53.3 mmol, 7.99 g | [Na+].[I-]
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | 4-iodobutyl pentafluorophenyl carbonate | 1.95 g, 90% | C(OCCCCI)(OC1=C(C(=C(C(=C1F)F)F)F)F)=O | C11H8F5IO3
